Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.521714911471
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.4300692252899999
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][H:4],1.1079767177700002
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-4.14998241626
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12]>>[C:3]([H:4])([H:5])=[C:6]([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12].[H:1][C:2],3.3888168731
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:1][C:2][O:3].[C:4]([H:5])#[C:6][C:7]([H:8])[H:9],0.636468230189
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.90097071268
[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([C:3]=[O:4])=[C:9]\[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13],-0.92036776566
[C:1]#[C:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11],0.0645310641603
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7]>>[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][H:7],5.7837102141
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],4.421618409090001
[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([O:3][O:4])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],2.83403186871
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-2.01095540814
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.47657267137
[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-8.344871533280001
[H:1][O:2][C:3]([H:4])[C:10]([C:7]([C:6]=[O:5])([H:8])[H:9])([H:11])[H:12]>>[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-0.570388893691
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2]=[O:3],1.86115710144
[H:1][O:2][C:3]([H:4])[H:5]>>[C:3]([H:4])[H:5].[H:1][O:2],6.84250279974
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],-0.67346544588
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2],6.03093315316
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-6.11724104368
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]1([H:9])[H:10],-0.49865558383
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.57230053586
[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.53516223694
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],4.45728640852
[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.076808468399999
[H:6].[O:1]=[C:2]=[C:3][O:4][C:5]>>[O:1]=[C:2]=[C:3][O:4][C:5][H:6],-1.91448453301
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],3.8485211428400015
